US07550474B2
a. 2,2-Difluoro-2-(5-chloro-pyridin-2-yl)-ethylamine
To a solution of 2-(2-Azido-1,1-difluoro-ethyl)-5-chloro-pyridine (1.94 g, 8.87 mmol) (prepared essentially as described for Example 14b) in THF (30 mL) cooled in an ice bath were added triphenylphosphine pellets (2.6 g, 9.76 mmol). The mixture was stirred at room temperature for 16 h. Ammonium hydroxide solution (10 mL) was added to the mixture followed by additional stirring for 4 h. NaOH solution (3 N, 40 mL) was then added and the mixture was heated at 40° C. for 1 h. The organic layer was separated and washed with HCl solution (2 N, 60 mL). The aqueous layer was then basified with 4 N NaOH solution and extracted with EtOAc twice. The solvent was evaporated to leave a pale yellow oil (1.6 g, 93% yield). 1H NMR (300 Hz, CDCl3) δ 8.59 (d, 1H), 7.78 (dd, 1H), 7.62 (d, 1H), 3.40 (t, 2H); LC/MS (m/z) [M+1]+ 193.0 (calculated for C7H7ClF2N2, 192.0).

reactant | 2-(2-Azido-1,1-difluoro-ethyl)-5-chloro-pyridine | 8.87 mmol, 1.94 g | N(=[N+]=[N-])CC(F)(F)C1=NC=C(C=C1)Cl | C7H5ClF2N4
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | NaOH | 3 N, 40 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2,2-Difluoro-2-(5-chloro-pyridin-2-yl)-ethylamine | 1.6 g, 93% yield | FC(CN)(C1=NC=C(C=C1)Cl)F | C7H7ClF2N2
